US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (0.38 g) potassium carbonate (0.42 g), 3-(3-pyridyl)-2-propynyl chloride hydrochloride (1.9 ml) and small amount of potassium iodide in N,N-dimethylformamide (10 ml) was stirred for 2 hours at 40° C. The mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate as eluent and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(3-pyridyl)-2-propynyl]piperazine dihydrochloride (0.26 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 0.38 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | 3-(3-pyridyl)-2-propynyl chloride hydrochloride | 1.9 ml | Cl.N1=CC(=CC=C1)C#CCCl
reactant | potassium iodide | [I-].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(3-pyridyl)-2-propynyl]piperazine dihydrochloride | 0.26 g | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CC=2C=NC=CC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C30H27F6N3O.2ClH/c1-20-7-8-23(13-21(20)2)14-27-19-38(10-4-6-22-5-3-9-37-18-22)11-12-39(27)28(40)24-15-25(29(31,32)33)17-26(16-24)30(34,35)36;;/h3,5,7-9,13,15-18,27H,10-12,14,19H2,1-2H3;2*1H/t27-;;/m1../s1
